US08685991B2
Part A. Preparation of (3-fluoro-4-nitrophenyl)methanol
To a solution of 3-fluoro-4-nitrobenzoic acid (2.0 g, 10.8 mmol) in THF (50 ml) at 0° C. was added BH3.Me2S complex (2.215 ml, 22.15 mmol) drop-wise. The mixture was stirred at 0° C. for 3 h, and was then stirred at 65° C. for 18 h. To the cooled mixture was added ice (50 g), followed by 1 N aq. HCl (100 ml), and the resulting mixture was extracted with EtOAc (200 ml). The organic layer was dried over Na2SO4, filtered and concentrated in vacuo to provide the title compound as a white solid (1.79 g, 97%).

reactant | 3-fluoro-4-nitrobenzoic acid | 10.8 mmol, 2.0 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | HCl | 1 N, 100 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (3-fluoro-4-nitrophenyl)methanol | 1.79 g, 97% | FC=1C=C(C=CC1[N+](=O)[O-])CO | C7H6FNO3
